US07235574B2
vii) 4-[4-(4-Imidazol-1-yl-butyl)-phenoxymethyl]-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole
25.0 mg (0.100 mmol) 95% sodium hydride were given to a solution of 216 mg (0.100 mmol) 4-(4-[Imidazol-1-yl]-butyl)-phenol in 5.0 ml DMF and stirred for 15 min. 346 mg (0.100 mmol) 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole were added and stirring continued overnight. After addition of 10 ml water the resulting precipitate was isolated and washed with 2×10 ml water, 2×10 ml methanol and with diethyl ether. Yield 411 mg (78%). MS: M=526.2 (ESI+)

reactant | sodium hydride | 0.100 mmol, 25.0 mg | [H-].[Na+]
reactant | 4-(4-[Imidazol-1-yl]-butyl)-phenol | 0.100 mmol, 216 mg | N1(C=NC=C1)CCCCC1=CC=C(C=C1)O | C13H16N2O
reactant | 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 0.100 mmol, 346 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
reactant | water | 10 ml | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 4-[4-(4-Imidazol-1-yl-butyl)-phenoxymethyl]-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(OC2)C=CC2=CC=C(C=C2)S(F)(F)(F)(F)F)C=C1 | C25H24F5N3O2S
